US09388140B2
To a stirred suspension of 5-bromobenzene-1,2,3-triamine (81.5 g, 403 mmol) in HCl conc (2400 mL) at rt was added formic acid (46 mL, 1210 mmol, 3 eq). After stirring at reflux for 90 min, water (500 mL) was added to the suspension, and the pH was adjusted to 8 using ammonia (33% aqueous solution). After extraction with ethyl acetate (3×1000 mL), the organic phase was washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated in vaccuo. The crude product was trituarated with diethyl ether (200 mL), filtered and dried to yield 82.3 g 6-bromo-1H-benzimidazol-4-amine (96.3%).

reactant | 5-bromobenzene-1,2,3-triamine | 403 mmol, 81.5 g | BrC=1C=C(C(=C(C1)N)N)N | C6H8BrN3
reactant | formic acid | 1210 mmol, 46 mL, 3 eq | C(=O)O | CH2O2
reactant | water | 500 mL | O | H2O
reactant | ammonia | N | H3N
solvent | HCl | 2400 mL | Cl | ClH
product | 6-bromo-1H-benzimidazol-4-amine | 82.3 g, 96.3% | BrC=1C=C(C2=C(NC=N2)C1)N | C7H6BrN3
